US07235559B1
Sodium hydride (144 mg, 3.6 mmol) was added to a solution of 2-pyridine-methanol (361 mg, 3.3 mmol) in dimethylformamide (5 ml) and stirred for 20 minutes. 2,5-Dibromopyridine (711 mg, 3.0 mmol) was added, the reaction was heated to 100° C. for 10 hours, before the reaction was cooled and the solvents removed in vacuo. 2.0 N aqueous sodium hydroxide solution (5 ml) was added, the aqueous layer was extracted with ethyl acetate which was washed with and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 5% ethyl acetate in isohexane, yielded 3-bromo-6-(3-pyridylmethoxy)pyridine (366 mg, 46% yield) as an off-white solid:

reactant | Sodium hydride | 3.6 mmol, 144 mg | [H-].[Na+]
reactant | 2-pyridine-methanol | 3.3 mmol, 361 mg | N1=C(C=CC=C1)CO | C6H7NO
reactant | 2,5-Dibromopyridine | 3.0 mmol, 711 mg | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-bromo-6-(3-pyridylmethoxy)pyridine | 366 mg, 46% yield | BrC=1C=NC(=CC1)OCC=1C=NC=CC1 | C11H9BrN2O
